US07498440B2
1-{3-[(4-cyanophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0520 g, 0.177 mmol) and 4-[(3-bromopropyl)oxy]benzonitrile (0.156 g, 0.652 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0726 g, 76.8%). EI-MS m/z 453(M+) Rt (1.86 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.177 mmol, 0.0520 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-[(3-bromopropyl)oxy]benzonitrile | 0.652 mmol, 0.156 g | BrCCCOC1=CC=C(C#N)C=C1 | C10H10BrNO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{3-[(4-cyanophenyl)oxy]propyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0726 g, 76.8% | [Br-].C(#N)C1=CC=C(C=C1)OCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C30H33N2O2.BrH/c31-24-25-12-14-28(15-13-25)34-23-7-19-32-20-16-29(17-21-32,18-22-32)30(33,26-8-3-1-4-9-26)27-10-5-2-6-11-27;/h1-6,8-15,33H,7,16-23H2;1H/q+1;/p-1
